* source CHAIN_45
C_C1         0 OUTPUT  1f  TC=0,0 
V_A         INPUT 0  
+PULSE 0 {vdd_nominal} 0 70p 10p 0.5n 1n
V_Vin         N00124 0 {vdd_nominal}
M_not_1_M2         N05076 INPUT 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_1_M1         N05076 INPUT N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_not_2_M2         N05080 N05076 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_2_M1         N05080 N05076 N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_not_3_M2         N05084 N05080 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_3_M1         N05084 N05080 N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_not_4_M2         N05088 N05084 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_4_M1         N05088 N05084 N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_not_5_M2         N05100 N05088 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_5_M1         N05100 N05088 N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_not_6_M2         N05096 N05100 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_6_M1         N05096 N05100 N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_not_7_M2         N05092 N05096 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_7_M1         N05092 N05096 N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_not_8_M2         N05067 N05092 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_8_M1         N05067 N05092 N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_not_9_M2         N05063 N05067 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_9_M1         N05063 N05067 N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_not_10_M2         OUTPUT N05063 0 0 nMOS_45nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
M_not_10_M1         OUTPUT N05063 N00124 N00124 pMOS_45nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
.PARAM  n_size_l=50nm p_to_n_ratio=1.44 p_size_w={ p_to_n_ratio * n_size_w }
+  n_size_w=800nm p_size_l={n_size_l} vdd_nominal=1.1
