* source NOT_22
M_M1         OUT IN N00115 N00115 pMOS_22nm_PTM  
+ L={p_size_l}  
+ W={p_size_w}         
M_M2         OUT IN 0 0 nMOS_22nm_PTM  
+ L={n_size_l}  
+ W={n_size_w}         
C_C1         0 OUT  1f  TC=0,0 
V_A         IN 0  
+PULSE 0 {vdd_nominal} 0 70p 10p 0.5n 1n
V_Vin         N00115 0 {vdd_nominal}
.PARAM  n_size_l=30nm p_to_n_ratio=1 p_size_w={ p_to_n_ratio * n_size_w }
+  n_size_w=400nm p_size_l={n_size_l} vdd_nominal=0.95
